US08258144B2
A solution of tert-butyl (1-(5-fluoro-2-(4-(N-methylacetamido)phenylamino)pyrimidin-4-yl)piperidin-4-yl)methylcarbamate (60 mg, 0.13 mmol) in TFA (2 mL) was stirred at room temperature for 60 min. TFA was removed in vacuo. The residue was purified by HPLC to give N-(4-(4-(4-(aminomethyl)piperidin-1-yl)-5-fluoropyrimidin-2-ylamino)phenyl)-N-methylacetamide (25 mg). MS 373.3 (M+H); UV 201.8, 266.8 nm.

reactant | tert-butyl (1-(5-fluoro-2-(4-(N-methylacetamido)phenylamino)pyrimidin-4-yl)piperidin-4-yl)methylcarbamate | 0.13 mmol, 60 mg | FC=1C(=NC(=NC1)NC1=CC=C(C=C1)N(C(C)=O)C)N1CCC(CC1)CNC(OC(C)(C)C)=O | C24H33FN6O3
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-(4-(4-(4-(aminomethyl)piperidin-1-yl)-5-fluoropyrimidin-2-ylamino)phenyl)-N-methylacetamide | 25 mg | NCC1CCN(CC1)C1=NC(=NC=C1F)NC1=CC=C(C=C1)N(C(C)=O)C | C19H25FN6O
